### PR TITLE
[Merged by Bors] - feat: add a definition and API lemmas for Polynomial.homogenize and MvPolynomial

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds two API lemmas for multivariate polynomials: the support of `1` is `{0}` and all terms of a homoegenous polynomial of degree `n` have degree `n`.

It also adds an API lemma for `Polynomial.homogenize` (a polynomial is zero if its homogenization of sufficiently large degree is zero), plus a definition
```lean
/-- Given a polynomial `p : R[X]`, this is the family `![p₀, p₁]` of homogeneous bivariate
polynomials of degree `p.natDegree` such that `p(x) = p₀(x,1)/p₁(x,1)` and `p₁` is a monomial. -/
noncomputable
def toTupleMvPolynomial (p : R[X]) : Fin 2 → MvPolynomial (Fin 2) R :=
  ![p.homogenize p.natDegree, (MvPolynomial.X 1) ^ p.natDegree]
```
and some API for it.

This is useful for developing the theory of heights (in arithmetic geometry); see [Heights](https://github.com/MichaelStollBayreuth/Heights).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 1]
```diff
@@ -120,6 +120,17 @@ lemma coeff_homogenize (p : R[X]) (n : ℕ) (m : Fin 2 →₀ ℕ) :
       aesop
     · aesop (add simp homogenize_monomial_of_lt) (add simp coeff_monomial)
 
+lemma eq_zero_of_homogenize_eq_zero {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Polynomial/Homogenize.lean:123]: Would it be useful to have the `iff` version?

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 2]
```diff
@@ -217,4 +230,50 @@ lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 
...
+end Semifield
+
+section to_tuple
+
+variable {R : Type*} [CommSemiring R]
+
+/-- Given a polynomial `p : R[X]`, this is the family `![p₀, p₁]` of homogeneous bivariate
+polynomials of degree `p.natDegree` such that `p(x) = p₀(x,1)/p₁(x,1)`. -/
+noncomputable
+def to_tuple_mvPolynomial (p : R[X]) : Fin 2 → MvPolynomial (Fin 2) R :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Polynomial/Homogenize.lean]:
```suggestion
def toTupleMvPolynomial (p : R[X]) : Fin 2 → MvPolynomial (Fin 2) R :=
```

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Polynomial/Homogenize.lean]: But a more explicit name would probably be nice.

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 3]
```diff
@@ -217,4 +230,50 @@ lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 
   · ring
   all_goals simp_all [pow_add]
 
+end Semifield
+
+section to_tuple
+
+variable {R : Type*} [CommSemiring R]
+
+/-- Given a polynomial `p : R[X]`, this is the family `![p₀, p₁]` of homogeneous bivariate
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Polynomial/Homogenize.lean]: 1) Do you give this characterization somewhere?
2) When you write “*the* family”, what property does characterize it?

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Polynomial/Homogenize.lean]: In the present state of mathlib, this does not really make sense to request the multivariate version, but something like that ought to exist more generally. Also, for family of polynomials, by adding just one monomial.

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Polynomial/Homogenize.lean]: Maybe say in the docstring that p1 is the monomial with constant coefficient 1 and degree p.natDegre.

**Review by AntoineChambert-Loir — APPROVED** [review]

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Homogenize.lean]: > 1. Do you give this characterization somewhere?

See the API lemmas `isHomogenous_toTupleMvPolynomial` and `eval_eq_div_eval_toTupleMvPolynomial` further below (and the new `toTupleMvPolynomial_{zero|one}_eq` as well). I'm also adding the statement `p₀(X,1) = p * p₁(X,1)` on the level of polynomials.

>  2. When you write “_the_ family”, what property does characterize it?

I've followed your suggestion to add that the second component is a monomial (the degree is already mentioned in the docstring).

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Homogenize.lean]: Thanks for catching the naming convention violation!
I'm open to better suggestions for the name, but haven't yet come up with something I like better.

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Homogenize.lean:123]: I'm adding it; thanks for the suggestion!

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 4]
```diff
@@ -530,6 +530,12 @@ theorem support_X_pow [Nontrivial R] (s : σ) (n : ℕ) :
 theorem support_zero : (0 : MvPolynomial σ R).support = ∅ :=
   rfl
 
+@[simp]
+lemma support_one [Nontrivial R] : (1 : MvPolynomial σ R).support = {0} := by
+  classical
+  rw [show support (1 : MvPolynomial σ R) = if (1 : R) = 0 then ∅ else {0} from rfl]
+  simp
```
Comment (faenuccio) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]:
```suggestion
  simp [show support (1 : MvPolynomial σ R) = if (1 : R) = 0 then ∅ else {0} from rfl]
```

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 5]
```diff
@@ -120,6 +120,21 @@ lemma coeff_homogenize (p : R[X]) (n : ℕ) (m : Fin 2 →₀ ℕ) :
...
+  simp only [coeff_zero]
+  rcases le_or_gt i p.natDegree with H | H
+  · have : p.coeff i = (p.homogenize n).coeff fun₀ | 0 => i | 1 => n - i := by
+      simp [coeff_homogenize, Nat.add_sub_of_le (H.trans hn)]
+    simp [this, h]
+  · exact coeff_eq_zero_of_natDegree_lt H
+
+lemma homogenize_eq_zero_iff {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n) :
+    p.homogenize n = 0 ↔ p = 0 :=
+  ⟨eq_zero_of_homogenize_eq_zero hn, fun H ↦ by simp [H]⟩
```
Comment (faenuccio) [inline Mathlib/Algebra/Polynomial/Homogenize.lean]:
```suggestion
lemma eq_zero_of_homogenize_eq_zero {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n)
    (h : p.homogenize n = 0) :
    p = 0 := by
  ext i
  simp only [coeff_zero]
  rcases le_or_gt i p.natDegree with H | H
  · have : p.coeff i = (p.homogenize n).coeff fun₀ | 0 => i | 1 => n - i := by
      simp [coeff_homogenize, Nat.add_sub_of_le (H.trans hn)]
    simp [this, h]
  · exact coeff_eq_zero_of_natDegree_lt H

lemma homogenize_eq_zero_iff {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n) :
    p.homogenize n = 0 ↔ p = 0 :=
  ⟨eq_zero_of_homogenize_eq_zero hn, by simp+contextual⟩
```

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 6]
```diff
@@ -217,4 +234,63 @@ lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 
   · ring
   all_goals simp_all [pow_add]
 
+end Semifield
+
+section to_tuple
```
Comment (faenuccio) [inline Mathlib/Algebra/Polynomial/Homogenize.lean]: I don't have a strong objection, but it seems quite odd a name for a section. Do you have a name carrying more mathematical meaning?

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 7]
```diff
@@ -217,4 +234,63 @@ lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 
...
+
+variable {R : Type*} [CommSemiring R]
+
+/-- Given a polynomial `p : R[X]`, this is the family `![p₀, p₁]` of homogeneous bivariate
+polynomials of degree `p.natDegree` such that `p(x) = p₀(x,1)/p₁(x,1)` and `p₁` is a monomial. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/Polynomial/Homogenize.lean:244]: If you use `vector` instead of "family" users might better understand what this term is.

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 8]
```diff
@@ -217,4 +234,63 @@ lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 
...
+  rfl
+
+lemma toTupleMvPolynomial_one_eq (p : R[X]) :
+    p.toTupleMvPolynomial 1 = (MvPolynomial.X 1) ^ p.natDegree :=
+  rfl
+
+lemma isHomogenous_toTupleMvPolynomial (p : R[X]) :
+    ∀ i, (p.toTupleMvPolynomial i).IsHomogeneous p.natDegree := by
+  intro i
+  fin_cases i
```
Comment (faenuccio) [inline Mathlib/Algebra/Polynomial/Homogenize.lean]:
```suggestion
lemma isHomogenous_toTupleMvPolynomial (p : R[X]) (i : Fin 2) :
    (p.toTupleMvPolynomial i).IsHomogeneous p.natDegree := by
  fin_cases i
```
I would prefer `i` as a variable, rather than quantifying over it.

**Review by faenuccio — COMMENTED** [review]
Thanks! I've started the review, but I need to rush now. I'll pick up later, finishing `Homogenize.lean` and `Homogeneous.lean`.

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Homogenize.lean]: I'm renaming it to `section projectivize`.

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 9]
```diff
@@ -217,4 +234,62 @@ lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 
...
+      (p.toTupleMvPolynomial 0).eval ![x, 1] / (p.toTupleMvPolynomial 1).eval ![x, 1] := by
+  simp [toTupleMvPolynomial, eval_homogenize]
+
+lemma sum_eq_natDegree_of_mem_support_homogenize (p : R[X]) {s : Fin 2 →₀ ℕ}
+    (hs : s ∈ (p.homogenize p.natDegree).support) :
+    s 0 + s 1 = p.natDegree := by
+  simp [(isHomogeneous_homogenize p).degree_eq_sum_deg_support hs, ← Finsupp.degree_apply,
+        Finsupp.degree_eq_sum]
+
+lemma finsuppSum_homogenize_eq {M : Type*} [AddCommMonoid M] (p : R[X]) {f : R → M} :
```
Comment (faenuccio) [inline Mathlib/Algebra/Polynomial/Homogenize.lean:281]: Both the statement and the proof would benefit a bit from a bit of doc, I suppose (in particular the convoluted `refine`).

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 10]
```diff
@@ -306,6 +306,12 @@ theorem totalDegree (hφ : IsHomogeneous φ n) (h : φ ≠ 0) : totalDegree φ =
   -- Porting note: Original proof did not define `f`
   exact Finset.le_sup (f := fun s ↦ ∑ x ∈ s.support, s x) hd
 
+lemma degree_eq_sum_deg_support (hp : φ.IsHomogeneous n) {s : σ →₀ ℕ} (hs : s ∈ φ.support) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]: Is it really `hp` or you had `hφ` in mind? I also wonder if it is stated in the right direction (I would have imagined that translating the sum in the degree is more useful than the other way round), but I imagine that you've already tested and I'm wrong 😄

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 11]
```diff
@@ -306,6 +306,12 @@ theorem totalDegree (hφ : IsHomogeneous φ n) (h : φ ≠ 0) : totalDegree φ =
...
+    n = ∑ i ∈ s.support, s i := by
+  rw [IsHomogeneous, IsWeightedHomogeneous] at hp
+  rw [← hp <| mem_support_iff.mp hs, ← Finsupp.degree_apply, Finsupp.degree_eq_weight_one,
+    Pi.one_def]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]:
```suggestion
  simp [Pi.one_def, ← hp <| mem_support_iff.mp hs, ← degree_apply,
    degree_eq_weight_one]
```

**Review by faenuccio — COMMENTED** [review]
Thanks, beyond one doubt about the direction of a lemma, LGTM

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]: It should be `hφ`, cleary. This was a left-over from my original version (where I used `p` to denote the polynomial).

File: Mathlib/Algebra/Polynomial/Homogenize.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Homogenize.lean:244]: Should I perhaps rename `toTuple...` to `toVector...`?

Comment (faenuccio) [reply Mathlib/Algebra/Polynomial/Homogenize.lean:244]: I thought about it, but from the Mathlib perspective these are really tuples, not vectors, so I think your naming is appropriate. You might add a small comment in the docstring like "vectors (implemented as Tuples)...".

Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Homogenize.lean:244]: I would think that "the vector `![p₀, p₁]`" should be clear enough. Or do you mean that users need to be remembered that this if of type `Fin 2 → ...` (or, rather, `Fin Nat.zero..succ.succ → ...`, I guess)? But this is visible from the type signature anyway.

Comment (faenuccio) [reply Mathlib/Algebra/Polynomial/Homogenize.lean:244]: Agreed.

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]: Regarding the direction, it is this direction that is used in `sum_eq_natDegree_of_mem_support_homogenize`, that's why I wrote it like this.
